US04269837
To 2.14 g (0.02 mol) of N-methylaniline in 20 ml of anhydrous tetrahydrofuran at 0° C. under a nitrogen atmosphere was added 8 ml of 2.5 M n-butyl lithium in hexane. The solution was stirred for one hour at 0° C. To the lithium N-methylanilide solution at -23° C. was added 3.48 g (0.02 mol) of phenyl isocyanide dichloride in 5 ml of tetrahydrofuran dropwise. The mixture was stirred for 15 minutes at -23° C. and one hour at 0° C. to afford a clear yellow solution to which 4.8 g (0.04 mol) of benzamidine in 15 ml of tetrahydrofuran was added dropwise. The mixture was stirred for 21 hours at ambient temperature, concentrated and chromatographed on 150 g of silica gel using 1:6 methanol-dichloromethane. The chromatographed product was precipitated by adding a methanolic solution of the product to a large volume of ether and finally recrystallized twice from methanol-ether to afford 1.72 g (24%) of (N-methyl-N,N'-diphenylguanyl)benzimidamide hydrochloride, mp 243°-244° C.

reactant | N-methylaniline | 0.02 mol, 2.14 g | CNC1=CC=CC=C1 | C7H9N
reactant | n-butyl lithium | 2.5 M, 8 ml | C(CCC)[Li]
reactant | phenyl isocyanide dichloride | 0.02 mol, 3.48 g | C1=CC=C(C=C1)N=C(Cl)Cl | C7H5Cl2N
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | benzamidine | 0.04 mol, 4.8 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
